US04551458
To a suspension of 3.52 g (0.02 mole) 3-methyl-2,4-dioxo-1,3-dihydroquinazoline in 25 ml water was added a solution of 1.12 g (0.02 mole) potassium hydroxide in 15 ml water. To this clear, basic solution was added, dropwise, a mixture of 3.72 g (0.02 mole) trichloromethanesulfenyl chloride and 0.15 g of an emulsifier (as in example 1) in 2.5 ml water while maintaining the reaction mixture at 0°-5° C. The reactants were mixed so that the reaction mixture was kept at a pH greater than 7. The precipitate that formed was filtered off and the filter cake washed with water and air-dried. This was then extracted with hot benzene and the benzene removed under vacuum to yield a semi-solid oil which completely solidified on standing. The solid was recrystallized from benzene-cyclohexane to afford 2.3 g (35%) of 1-trichloromethylthio-3-methyl-2,4-dioxo-1,3-dihydroquinazoline having a melting point of 128°-129° C. Reaction of the benzene insoluble solids with additional trichloromethylsulfenyl chloride followed by the same work-up described above afforded additional product, giving an overall yield of 60%.

reactant | 3-methyl-2,4-dioxo-1,3-dihydroquinazoline | 0.02 mole, 3.52 g | CN1C(NC2=CC=CC=C2C1=O)=O | C9H8N2O2
reactant | potassium hydroxide | 0.02 mole, 1.12 g | [OH-].[K+]
reactant | trichloromethanesulfenyl chloride | 0.02 mole, 3.72 g | ClC(SCl)(Cl)Cl | CCl4S
solvent | water | 25 ml | O | H2O
solvent | water | 15 ml | O | H2O
solvent | water | 2.5 ml | O | H2O
product | 1-trichloromethylthio-3-methyl-2,4-dioxo-1,3-dihydroquinazoline | 2.3 g, 35% | ClC(SN1C(N(C(C2=CC=CC=C12)=O)C)=O)(Cl)Cl | C10H7Cl3N2O2S
